data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5171,5869,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[N:15]#[C:16][CH-:17][NH+:18]=[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:17]([C:16]#[N:15])[NH:18][C:19]2([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,16.038367525228498,-3.642853989605805
965,1049,[CH3:16][N-:17][O+:18]=[CH:19][C:20](=[O:21])[O:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:19]([C:20](=[O:21])[O:22][CH3:23])[O:18][N:17]2[CH3:16],water,298.15,11.303902928421348,-65.10652530026286
537,586,[CH3:18][N-:19][N+:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6]([CH3:7])=[O:8])=[C:9]([C:10](=[O:11])[O:12][CH3:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[N:21]=[N:20][N:19]1[CH3:18],water,298.15,31.98992486109562,1.2984723158371616
4108,4701,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:15]=[N:16]1,water,298.15,28.83925063371603,0.3089498955024349
1741,1928,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25]#[N+:26][N-:27][C:28]#[N:29]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[c:6]2[c:7]([n:27]([C:28]#[N:29])[n:26][c:25]2[C:23]([NH:22][CH3:21])=[O:24])[C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18][CH2:19][CH2:20]1,water,298.15,7.6246933505560035,-82.70971055858202
4388,5009,[CH3:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:21]([CH3:22])=[O:23])[O:14][C:15]1([C:16]#[N:17])[C:18]([CH3:19])=[O:20],water,298.15,7.201368893600332,-31.648896715329126
2669,2963,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[CH2:26][CH2:27][CH2:28][CH2:29]1.[CH3:30][C-:31]([N+:32]#[N:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]2=[C:12]([C:13]([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[CH2:26][CH2:27][CH2:28][CH2:29]1)[C:31]([CH3:30])([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[N:32]=[N:33]2,water,298.15,26.240052589983826,-28.24321928236894
482,527,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][O:9][C:10](=[O:11])[CH-:12][N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[C:15]([C:16]#[N:17])([C:18]([CH3:19])=[O:20])[N:13]([CH3:14])[CH:12]1[C:10]([O:9][CH3:8])=[O:11],water,298.15,21.6651175208744,-50.94662064281826
2961,3308,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[CH:8]=[NH+:9][C-:10]([CH3:11])[CH3:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:10]([CH3:11])([CH3:12])[NH:9][CH:8]1[C:6]([CH3:5])=[O:7],water,298.15,27.12931483281624,-13.803843654691192
1197,1301,[CH3:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[c-:20]([C:21]([CH3:22])=[O:23])[n+:24]1[CH3:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:20]1([C:21]([CH3:22])=[O:23])[C:18](=[O:19])[O:17][C:16]2([C:14]([CH3:13])=[O:15])[N:24]1[CH3:25],water,298.15,30.583506436913428,3.486929511226456
3911,4475,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[O-:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[O:20][N:18]([CH3:19])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,33.129638418333094,6.9457382631560005
